US08377970B2
N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-2-yl)acetamide hydrochloride
Following the general procedure-1, N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-2-yl)acetamide (85 mg) was prepared from 2-pyridylacetic acid (139 mg, 0.8 mmol) and intermediate 27 (120 mg, 0.5 mmol) as a pale yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (75 mg) as a pale yellow solid. M.P. 157-162° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.90 (s, 1H), 8.89 (d, J 5.1, 1H), 8.53 (t, J 8.0, 1H), 8.05 (d, J 8.0, 1H), 7.95 (t, J 6.5, 1H), 7.72 (d, J 8.8, 2H), 7.52 (d, J 8.8, 2H), 5.79 (s, 1H), 4.34 (s, 2H), 1.87-1.70 (m, 2H), 0.95-0.81 (m, 4H), 0.67-0.59 (m, 4H). MS (m/z): 359.29 [M+H—HCl]+.

reactant | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-2-yl)acetamide | 85 mg | C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC1=NC=CC=C1)=O | C22H22N4O
reactant | 2-pyridylacetic acid | 0.8 mmol, 139 mg | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[4-(3,5-dicyclopropyl-1H-pyrazol-1-yl)phenyl]-2-(pyridin-2-yl)acetamide hydrochloride | 75 mg | Cl.C1(CC1)C1=NN(C(=C1)C1CC1)C1=CC=C(C=C1)NC(CC1=NC=CC=C1)=O | InChI=1S/C22H22N4O.ClH/c27-22(13-18-3-1-2-12-23-18)24-17-8-10-19(11-9-17)26-21(16-6-7-16)14-20(25-26)15-4-5-15;/h1-3,8-12,14-16H,4-7,13H2,(H,24,27);1H
